US06376491B1
To a solution of 4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester (Joseph G. Atkinson et al., European patent application 0146243 (1985)) (700 mg) in dichloromethane (20 ml) was added 1-fluoro-2,6-dichloropyridinium tetrafluoroborate (807 mg) at room temperature and the mixture was stirred overnight. The reaction was quenched by the addition of water (10 ml), extracted with ethyl acetate (20 ml), washed with brine and dried over anhydrous magnesium sulfate. The mixture was separated by silica gel column chromatography developed by dichloromethane and methanol. 5-fluoro-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester (210 mg) was obtained as a white solid. EI-MS: m/z 238 (MH+); 1H-NMR (CDCl3): δ 1.50 (3H, t, J=7.3 Hz), 2.82 (3H, s), 4.46 (2H, q, J=7.3 Hz), 6.99 (1H, dd, J=3.3 Hz, 8.9 Hz), 7.15 (1H, dd, J=8.9 Hz, 10.6 Hz). And 7-fluoro-4-methyl-benzofuran-2-carboxylic acid ethyl ester was obtained as a colorless oil. EI-MS: m/z 238 (MH+); 1H-NMR (CDCl3): δ 1.44 (3H, t, J=7.3 Hz), 2.76 (3H, s), 4.46 (2H, q, J=7.3 Hz), 6.47 (1H, dd, J=3.0 Hz, 8.6 Hz), 6.97 (1H, dd, J=8.6 Hz, 10.2 Hz).

reactant | 4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 700 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)O | C12H12O4
reactant | 1-fluoro-2,6-dichloropyridinium tetrafluoroborate | 807 mg | F[B-](F)(F)F.F[N+]1=C(C=CC=C1Cl)Cl
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 5-fluoro-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 210 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)F)O | C12H11FO4
